US04421754
The resulting 4-(benzoylmethyl)-1-(N-nitrosocyanomethylamino)piperazine was dissolved in 10 ml of methanol. In the solution was added 12 ml of 10% methanolic hydrochloric acid, and the mixture was reacted at 5° C. overnight. The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from methanol-ether to give 1.8 g (yield 81.8%) of 3-[4- (benzoylmethyl)piperazin-1-yl]sydnonimine dihydrochloride having a melting point of 182° to 184° C. (decomp.).

reactant | 4-(benzoylmethyl)-1-(N-nitrosocyanomethylamino)piperazine | C(C1=CC=CC=C1)(=O)CN1CCN(CC1)N(N=O)CC#N | C14H17N5O2
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 3-[4- (benzoylmethyl)piperazin-1-yl]sydnonimine dihydrochloride | 1.8 g, yield 81.8% | Cl.Cl.C(C1=CC=CC=C1)(=O)CN1CCN(CC1)[N+]=1[N-]OC(C1)=N | InChI=1S/C14H17N5O2.2ClH/c15-14-11-19(16-21-14)18-8-6-17(7-9-18)10-13(20)12-4-2-1-3-5-12;;/h1-5,11,15H,6-10H2;2*1H
